US07081531B2
To a MeOH solution (200 ml) of 2-hydroxy-4-nitro-benzoic acid (18 g) was added concentrated sulfuric acid. The resulting mixture was heated to reflux for 24 h. After it was cooled to rt, volatile was removed in vacuo. The residue was then partitioned between water and EtOAc. The EtOAc layer was washed with water (2×), NaHCO3 (sat.), NaCl (sat.), dried over Na2SO4 and concentrated. The crude product was purified on a silica gel column with 20% EtOAc in hexane to give 14.5 g of 2-hydroxy-4-nitro-benzoic acid methyl ester as a solid (M+: 197).

reactant | 2-hydroxy-4-nitro-benzoic acid | 18 g | OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H5NO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 200 ml | CO | CH4O
product | 2-hydroxy-4-nitro-benzoic acid methyl ester | 14.5 g | COC(C1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C8H7NO5
